US20010053528A1
Example 4.3 Preparation of Silica Tagged (1%) With Dipentylamine.
A sample of 245 mg of silica (3.0 mmol[—OH]/g, 0.74 mmol) was treated with a solution of 2.9 mg (7.4 μmol, 1% loading) dipentylaminomethyl(phenylethyl)trimethoxysilane in 5 mL toluene. The resultant suspension was heated to reflux for 1 hour whereupon the silica was isolated by filtration, washed with 2×5 mL hexane and dried under vacuum.

reactant | dipentylaminomethyl(phenylethyl)trimethoxysilane | 7.4 μmol, 2.9 mg | C(CCCC)N(CCCCC)CCO[Si](OC)(OC)CCC1=CC=CC=C1 | C22H41NO3Si
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Dipentylamine | C(CCCC)NCCCCC | C10H23N
